US07205296B2
Analogues to the sulfonylurea formation described in Ex. 5, 3-(4-aminophenyl)-6-chloro-7-(methylamino)-2,3-dihydrobenzo[e][1,3]oxazin-4-one (Ex. 47) (44 mg, 0.15 mmol) and (5-Chloro-thiophene-2-sulfonyl)-carbamic acid ethyl ester (59 mg, 0.22 mmol) were coupled to give 1-(5-chlorothiophen-2-ylsulfonyl)-3-(4-(6-chloro-7-(methylamino)-4-oxo-2H-benzo[e][1,3]oxazin-3(4H)-yl)phenyl)urea. RP-HPLC: 2.70 min; ES-MS (M+H)+=528.0; 1H-NMR (MeOH-d4) δ (ppm): 2.8 (s, 3), 5.4 (s, 2), 6.2 (s, 1), 6.9 (d, 1), 7.1 (d, 2), 7.39 (d, 1), 7.48 (d, 2), 7.7 (s, 1).

reactant | sulfonylurea | S(=O)(=O)=NC(=O)N | CH2N2O3S
reactant | 3-(4-aminophenyl)-6-chloro-7-(methylamino)-2,3-dihydrobenzo[e][1,3]oxazin-4-one | 0.15 mmol, 44 mg | NC1=CC=C(C=C1)N1COC2=C(C1=O)C=C(C(=C2)NC)Cl | C15H14ClN3O2
reactant | (5-Chloro-thiophene-2-sulfonyl)-carbamic acid ethyl ester | 0.22 mmol, 59 mg | C(C)OC(NS(=O)(=O)C=1SC(=CC1)Cl)=O | C7H8ClNO4S2
product | 1-(5-chlorothiophen-2-ylsulfonyl)-3-(4-(6-chloro-7-(methylamino)-4-oxo-2H-benzo[e][1,3]oxazin-3(4H)-yl)phenyl)urea | ClC1=CC=C(S1)S(=O)(=O)NC(=O)NC1=CC=C(C=C1)N1COC2=C(C1=O)C=C(C(=C2)NC)Cl | C20H16Cl2N4O5S2
